US05726336
In the same apparatus and by the same procedure described in EXAMPLE 1, n-butylbenzene 0.86 g (6.40 mmol), vinyltrichlorosilane 5.17 g (32.00 mmol) and aluminum chloride 0.047 g (0.35 mmol) were reacted at 80° C. for 6 hours under a dry nitrogen atmosphere. Recrystallization of solid product from THF gave 6.16 g (yield: 2.68%, mp: 228°-35° C.) of pentakis(trichlorosilylethyl)-n-butylbenzene. Distillation of the filtrate gave 2.20 g (yield: 36.59%, bp: 192°-8° C./0.6 mm), 1.81 g (yield: 30.0%, bp: 220°-5° C./0-6 mm), 0.63 g (yield: 10.15%), 0.12 g (yield: 2.05%) and 0.22 g (yield: 3.59%) of tris-, tetrakis(trichlorosilylethyl)-n-butylbenzenes, tetrakis(trichlorosilylethyl)dibutylbenzene, mono- and bis(trichlorosilylethyl)benzenes, respectively. isomeric mixtures were also obtained. NMR data of the polyalkylated products prepared as above are listed in Table 13.

reactant | n-butylbenzene | 6.40 mmol, 0.86 g | CCCCC=1C=CC=CC1 | C10H14
reactant | vinyltrichlorosilane | 32.00 mmol, 5.17 g | C(=C)[Si](Cl)(Cl)Cl | C2H3Cl3Si
catalyst | aluminum chloride | 0.35 mmol, 0.047 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | pentakis(trichlorosilylethyl)-n-butylbenzene | 6.16 g, yield: 2.68% | Cl[Si](Cl)(Cl)CCC1=C(C(=C(C(=C1CCCC)CC[Si](Cl)(Cl)Cl)CC[Si](Cl)(Cl)Cl)CC[Si](Cl)(Cl)Cl)CC[Si](Cl)(Cl)Cl | C20H29Cl15Si5
